US03957783
To a solution of 13.57 g of 4-(o-fluorophenyl)-5-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one in 271 ml of dimethylformamide is added 2.8 g of 63% sodium hydride. The mixture is stirred at room temperature for 1 hour. Then, 22.15 g of methyl iodide in 66 ml of dimethylformamide is added dropwise thereto. The mixture is stirred for 2 hours at room temperature. The reaction mixture is poured into water and extracted with chloroform. The chloroform extracts are washed with water, dried over sodium sulfate, and the solvent is removed under reduced pressure. The residue is chromatographed on silica gel, using chloroform as an eluent. From the first fraction, 2-methoxy-4-(o-fluorophenyl)-5-methyl-thieno[2,3-d]pyrimidine is obtained as crystals having a melting point of 177° - 179°C. From the second fraction, 1-methyl-4-(o-fluorophenyl)-5-methyl-1,2-dihydrotheino[2,3-d]pyrimidin-2-one is obtained as crystals having a melting point of 275° - 277°C. From the the third fraction, 3-methyl-4-(o-fluorophenyl)-5-methyl-3H-thieno[2,3-d]pyrimidin-2-one is obtained as crystals having a melting point of 176° - 178°C.

reactant | 4-(o-fluorophenyl)-5-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | 13.57 g | FC1=C(C=CC=C1)C=1C2=C(NC(N1)=O)SC=C2C | C13H9FN2OS
reactant | sodium hydride | 2.8 g | [H-].[Na+]
reactant | methyl iodide | 22.15 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 271 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 66 ml | CN(C=O)C | C3H7NO
product | 2-methoxy-4-(o-fluorophenyl)-5-methyl-thieno[2,3-d]pyrimidine | COC=1N=C(C2=C(N1)SC=C2C)C2=C(C=CC=C2)F | C14H11FN2OS
